US04298739
1.75 Grams of 1-methyl-6-hydroxycarbostyril, 1.8 g of K2CO3 and 0.5 g of KI are added to 50 ml of DMF, and then 2.8 g of N-methyl-N(4-chlorobutyryl)cyclohexylamine is added gradually dropwise to this solution at 60° to 70° C. under agitation, followed by additional 4-hour agitation at the same temperature and removal of the solvent by distillation. The residue is dissolved in 200 ml of chloroform, washed with diluted hydrochloric acid, a 1% aqueous NaOH solution and water and then dried with anhydrous Na2SO4. After filtering off the inorganic matter, the mother liquor is concentrated and the residue is crystallized from petroleum ether. The obtained crystals are recrystallized from benzene-ligroin to produce 0.6 g of 1-methyl-6-[3-(N-cyclohexyl-N-methylaminocarbonyl)-propoxy]carbostyril in the form of colorless needle-like crystals with melting point of 118.5°-119.5° C.

reactant | 1-methyl-6-hydroxycarbostyril | CN1C(=O)C=CC2=CC(=CC=C12)O | C10H9NO2
reactant | K2CO3 | 1.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-methyl-N(4-chlorobutyryl)cyclohexylamine | 2.8 g | CN(C(CCCCl)=O)C1CCCCC1 | C11H20ClNO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-methyl-6-[3-(N-cyclohexyl-N-methylaminocarbonyl)-propoxy]carbostyril | 0.6 g | CN1C(=O)C=CC2=CC(=CC=C12)OCCCC(=O)N(C)C1CCCCC1 | C21H28N2O3
